US05935972
5-Acetyl-benzofuran-7-carbaldehyde
A mixture of 5-bromo-benzofuran-7-carbaldehyde (2.00 g), 1-ethoxy-1-tributylstannanylethene (3.53 g)and bis(triphenylphosphine)palladium (II) chloride (63 mg) in dry toluene (4 ml) was heated at reflux under nitrogen for 18 h. A further portion of palladium catalyst (63 mg) was added and heating at reflux continued for a further 6 h. The reaction was allowed to cool, diluted with ether (40 ml) and filtered through a plug of Hyflo. The filtrate was washed successively with hydrochloric acid (50 ml; 2M) and brine (50 ml), then dried, and concentrated in vacuo to give an orange oil. Purification by FCC eluted with hexane to hexane:ethyl acetate (4:1) gave the title compound as a yellow powder (1.21 g), m.p. 91-93°.

reactant | 5-bromo-benzofuran-7-carbaldehyde | 2.00 g | BrC=1C=C(C2=C(C=CO2)C1)C=O | C9H5BrO2
reactant | 1-ethoxy-1-tributylstannanylethene | 3.53 g | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium | 63 mg | [Pd] | Pd
solvent | ether | 40 ml | CCOCC | C4H10O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 63 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 5-Acetyl-benzofuran-7-carbaldehyde | 1.21 g | C(C)(=O)C=1C=C(C2=C(C=CO2)C1)C=O | C11H8O3
